US07589232B2
Step a) Formation of methyl 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]-8-oxooctanoate
The titled compound was prepared following the procedure J using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and methyl 8-chloro-8-oxooctanoate as a colorless oil (97%). 1H NMR (CDCl3, 300 MHz) δ 7.69 (br s, 1H), 7.44 (m, 4H), 7.18 (m, 4H), 7.04 (m, 1H), 6.92 (d, J=8.7 Hz, 1H), 4.88 (s, 2H), 3.66 (s, 3H). 2.63 (t, J=7.5 Hz, 2H), 2.28 (t, J=7.3 Hz, 2H), 2.05 (t, J=7.3 Hz, 2H), 1.75 (s, 6H), 1.61 (m, 6H), 1.38 (m, 2H), 1.26 (m, 4H), 0.94 (t, J=7.3 Hz, 3H). M+ (ESI): 610.2. HPLC, Rt: 5.81 min (Purity: 100%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | methyl 8-chloro-8-oxooctanoate | ClC(CCCCCCC(=O)OC)=O | C9H15ClO3
product | methyl 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]-8-oxooctanoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCCCC(=O)OC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C38H43NO6
